US09029531B2
Step C: methyl 2-(5-aminopyridin-2-yl)acetate
The solution of methyl 2-(5-nitropyridin-2-yl)acetate (500 mg, 2.5 mmol) and Pd/C (50 mg) in methanol (20 mL) was stirred under H2 at room temperature for 3 h. Then, the reaction mixture was filtered and evaporated under reduced pressure to get desired product for the next step without further purification.

reactant | methyl 2-(5-nitropyridin-2-yl)acetate | 2.5 mmol, 500 mg | [N+](=O)([O-])C=1C=CC(=NC1)CC(=O)OC | C8H8N2O4
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | methyl 2-(5-aminopyridin-2-yl)acetate | NC=1C=CC(=NC1)CC(=O)OC | C8H10N2O2
